US07595359B2
a) N-(3-Dimethylamino-propyl)-2-(4-hydroxy-2.2,6,6-tetramethyl-piperidine-1-yloxy)-propionamide
4-Hydroxy-TEMPO (25.84 g, 0.15 mol), CuCl (29.7 g, 0.3 mol), PMDETA (52.0 g, 0.3 mol) and 2-chloro-N-(3-dimethylamino-propyl)-propionamide (35.75 g, 0.18 mol) are reacted as described in Example A3. The final purification of the residue after the extractive workup is performed by crystallization from toluene (45 ml) and hexane (50 ml) to afford 31.13 g of the title compound as a white solid, mp. 85-88° C.

reactant | 4-Hydroxy-TEMPO | 0.15 mol, 25.84 g | CC1(CC(CC(N1O)(C)C)O)C | C9H19NO2
reactant | PMDETA | 0.3 mol, 52.0 g | CN(C)CCN(C)CCN(C)C | C9H23N3
reactant | 2-chloro-N-(3-dimethylamino-propyl)-propionamide | 0.18 mol, 35.75 g | ClC(C(=O)NCCCN(C)C)C | C8H17ClN2O
catalyst | CuCl | 0.3 mol, 29.7 g | Cl[Cu]
product | N-(3-Dimethylamino-propyl)-2-(4-hydroxy-2.2,6,6-tetramethyl-piperidine-1-yloxy)-propionamide | 31.13 g | CN(CCCNC(C(C)ON1C(CC(CC1(C)C)O)(C)C)=O)C | C17H35N3O3
